US05470851
27(a) (14bR)-2-(2-Phthalimidoethyl)-1,2,3,4,10,14b-hexahydropyrazino [2,1-a]pyrido[2,3-c][2]benzoazepine
Following a procedure similar to that described in Preparation 14(a), but using (14bR)-1,2,3,4,10,14b-hexahydropyrazino [2,1-a]pyrido[2,3-c][2]benzoazepine and N-(2-bromoethyl)phthalimide, the title compound was obtained in a yield of 47%.

reactant | (14bR)-1,2,3,4,10,14b-hexahydropyrazino [2,1-a]pyrido[2,3-c][2]benzoazepine | C1NCCN2[C@@H]1C1=C(CC3=C2N=CC=C3)C=CC=C1 | C16H17N3
reactant | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
product | (14bR)-2-(2-Phthalimidoethyl)-1,2,3,4,10,14b-hexahydropyrazino [2,1-a]pyrido[2,3-c][2]benzoazepine | yield of 47% | C1(C=2C(C(N1CCN1C[C@@H]3N(C4=C(CC5=C3C=CC=C5)C=CC=N4)CC1)=O)=CC=CC2)=O | C26H24N4O2
